US08071586B2
H) (S)-4-((S)-1-Hydroxymethyl-3-piperidin-1-yl-propyl)-2-methyl-3-oxo-piperazine-1-carboxylic acid tert-butyl ester
Tetrabutylammonium fluoride solution (1 M in tetrahydrofuran, 0.14 mL, 0.14 mmol) was added at room temperature to a solution of (S)-4-[(S)-1-(tert-butyl-diphenyl-silanyloxymethyl)-3-piperidin-1-yl-propyl]-2-methyl-3-oxo-piperazine-1-carboxylic acid tert-butyl ester (75 mg, 0.12 mmol) in tetrahydrofuran (1 mL), then after 16 h another portion of tetrabutylammonium fluoride solution (1 M in tetrahydrofuran, 20 μL, 20 μmol) was added. The reaction mixture was stirred at room temperature for another 60 min, then evaporated. Chromatography (SiO2; dichloromethane dichloromethane/methanol/25% aq. ammonia solution 90:10:0.25) produced the title compound (42 mg, 92%). Colorless gum, MS (ISP)=370.3 (M+H)+.

reactant | Tetrabutylammonium fluoride | 0.14 mmol, 1 M, 0.14 mL | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | (S)-4-[(S)-1-(tert-butyl-diphenyl-silanyloxymethyl)-3-piperidin-1-yl-propyl]-2-methyl-3-oxo-piperazine-1-carboxylic acid tert-butyl ester | 0.12 mmol, 75 mg | C(C)(C)(C)OC(=O)N1[C@H](C(N(CC1)[C@@H](CCN1CCCCC1)C(O[SiH2]C(C)(C)C)(C1=CC=CC=C1)C1=CC=CC=C1)=O)C | C35H53N3O4Si
reactant | tetrabutylammonium fluoride | 20 μmol, 1 M, 20 μL | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | tetrahydrofuran | 1 mL | O1CCCC1 | C4H8O
product | (S)-4-((S)-1-Hydroxymethyl-3-piperidin-1-yl-propyl)-2-methyl-3-oxo-piperazine-1-carboxylic acid tert-butyl ester | 42 mg, 92% | C(C)(C)(C)OC(=O)N1[C@H](C(N(CC1)[C@@H](CCN1CCCCC1)CO)=O)C | C19H35N3O4
